US08258130B2
A solution of 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (259 mg, 1.2 mmol) and 6-trifluoromethyl-indol-1-ylamine (200 mg, 1 mmol) in DMF (5 mL) is stirred at 50° C. for 0.5 h. The mixture is treated with DMTMM (290 mg, 1.05 mmol) and stirred at 50° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is triturated with Et2O/heptane overnight. The precipitate is collected by filtration, washed with H2O (50 mL) and heptane (50 mL), and dried in vacuo to afford 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (6-trifluoromethyl-indol-1-yl)-amide (100 mg, 25%). MS: 399 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 12.16 (s, NH, 1H), 9.39 (s, 1H), 9.06 (d, 2H), 7.92 (s, 1H), 7.81 (m, 2H), 7.70 (t, 1H), 7.44 (d, 1H), 6.74 (d, 1H), 2.79 (s, 3H).

reactant | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid | 1.2 mmol, 259 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=N1 | C10H8N4O2
reactant | 6-trifluoromethyl-indol-1-ylamine | 1 mmol, 200 mg | FC(C1=CC=C2C=CN(C2=C1)N)(F)F | C9H7F3N2
reactant | DMTMM | 1.05 mmol, 290 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methyl-[2,2′]bipyrimidinyl-5-carboxylic acid (6-trifluoromethyl-indol-1-yl)-amide | 100 mg, 25% | FC(C1=CC=C2C=CN(C2=C1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=N1)C)(F)F | C19H13F3N6O
